Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Presyncope episode 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: Mr. ___ is a ___ yo male with history of chronic 
Afib,s/p pulmonary vein isolation in ___, and DVT who was a 
direct from Dr. ___ this afternoon for presyncopal 
episode, orthostatic hypotension and bradycardia. Patient 
complaint of feeling light headed when he gets up for the past 
___ weeks. This morning he states to be feeling worse, he was 
very light headed to the point he thought he was going to pass 
out. He had to hold on to the walls not to fall down. He had 
some shortness of breath during that time, but denies having any 
palpitations, chest pain, diaphoresis, nausea/vomiting or 
blurred vision with this episode. He then went to Dr. ___ 
___ and was found to have irregular heart rate, bradycardic 
and to have orthostatic hypotension. 

Patient states to have increase episodes of atrial fibrilation 
in the past few months. He states to know this because when he 
checks his pulse which often feels week and the beats are 
irregular wiht long breaks in between beats. He denies having 
any palpitations, chest pain, SOB or diaphoresis with this 
episodes. He has increased fatigue for the last few months. He 
also complaints of feeling bloating and having difficulty 
digesting for the last 4 days. Last BM was yesterday, no melena 
noted. He has occasional headaches. He denies having any blurred 
vision or neurologic deficits. 

Mr. ___ has recently started seem a chiopracter for neck 
pain, and doesn't relate any of the events with the chiopracter 
visit.

On ROS as noted above: no recent fever, chills, or night sweats. 
No cough or sputum production. He denies exertional buttock or 
calf pain. All of the other review of systems were negative.

Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
palpitations.  

PAST CARDIOVASCULAR HISTORY: 
1. CARDIAC RISK FACTORS: -Hypertension  
2. CARDIAC HISTORY: 
- CABG: None.
- CORONARY INTERVENTIONS: pulmonary vein isolation in ___ for 
A-fib
- PACING/ICD: None   

 
Past Medical History:
PMH:
- Atrial fibrillation (s/p pulmonary vein isolation in ___ now
rate controlled with sotalol and diltiazem; patient on warfarin
for clot ppx)
- DVT (Chronic, noninvasive occlusive DVT of distal femoral vein
of the thigh and mid peroneal veins. Patient on Warfarin)
- Varicose veins ( Improving - on most recent U/S greater
saphenous is thrombosed as are varicosities below the knee).
- sciatica
- seborrheic dermatitis
- umbilical hernia (s/p surgical repair several years ago)
- low vitamin D (now on supplements)

 
Social History:
___
Family History:
FAMILY HISTORY: both parents had cardiac problems: Mother 
angina, and ___ bypass. Father had first MI at age of ___. 
No stroke, hyperlipedimia, or DM. 

 
Physical Exam:
PHYSICAL EXAM:
VITAL SIGNS: Blood Pressure: 125/91. Heart Rate: 52, RR 16,O2 
sat 98% on RA  Temperature: 97.6.
GEN: appears confortable in NAD. 
HEENT:  NC AT, EOMI, PERRL. MMM. Oropharynx clean and w/o
lesions. 
NECK:  Supple. No LAD, thyroid pathology or JVD appreciated. 
Reduced ROM on neck extension and side to side movement. 
HEART:  Heart rate/rhythm regular.  No murmurs, gallops, or
rubs appreciated.
CHEST:  CTA-B, no wheezes, rales, or rhonchi.
ABDOMEN:  (+)BS, NT/ND; no masses or organomegally appreciated.
EXTREMITIES:  WWP, no cyanosis/clubbing appreciated. DPs are
palpable bilaterally. 1+ pitting edema to bilaterally lower 
extremeties with numerous varicose veins bilaterally.
Neuro: A+O x 3, CN II-XII intact. No sensory deficits. All 
extremeties are strong with full ROM.
DERM: no new rashes or lesions.

 
Pertinent Results:
___ at 6:40p   

Na 138/K 4.5/Cl 103/HCO3 26/ BUN 22/ Creat 1.1/Glu 93   AGap=14 
 
estGFR: 69  
CK: 118  MB: 3  Trop-T: <0.01  
 
Ca: 9.2 Mg: 1.8 P: 3.9

 
WBC 7.2/Hgb 13.8/ HCT 40.5/Plts 201 
  N:50.2 L:41.1 M:5.3 E:2.8 Bas:0.6 

___: 13.3  PTT: 24.0  INR: 1.1 
 
 
Brief Hospital Course:
This is a ___ yo man chronic A-fib, s/p ablation in  HTN and DVT 
who presented with repetitive presyncopal episodes for the last 
3 weeks and was a direct admission from Dr. ___, his 
primary care provider who found patient to be bradycardic, HR 
___ and to have orthostatic hypotension, and to have some 
changes in his ECG. At time of admission, his ECG showed Sinus 
rythm with bigeminal premature atrial beat, HR of 57. No A-fib 
noted. VSS, heart rate slight brady in the mid-to higher ___. He 
was no longer feeling lightheaded.

#-Presycopal episodes: Since admission, patient did not 
complaint of any dizziness, chest pain, palpitations or any 
other symptoms. He was on continuous telemetry monitoring and he 
remained on NSR with occasional Premature atrial beats, but not 
in A-fib. He had one episode of sinus tachycardia with HR was 
120, only lasting for a few beats. Patient remained asymptomatic 
during this episode. Overall, his HR ranged from upper ___ to 
___. Although the patient has chronic A-fib, his presyncopal 
symptoms did not seem to correlate with the episodes of A-fib 
and he was not on A-fib during this hospitalization. In 
addition, the description of his symptoms such as: feeling 
lightheaded when getting up, is likely related to orthostatic 
hypotension and bradycardia. Based on the finding, it was 
concluded that this was possible due to his medications and we 
consulted ___ outpatient cardiologist. Dr. 
___ decreasing his Diltiazen dose and 
discontinuing his the spirolactone while continue the satolol at 
current dose. Patient will follow-up with Dr. ___ in ___. 

-Diltiazem decreased to 30mg PO TID
-D/c spirolactone
-Cont Stalol at 120mg PO BID

# Arterial fibrillation:
Rate controlled on sotalol/diltiazem with HR higher ___ to low 
___ on monitor. Current on SR on tele monitor. He is 
asymptomatic. Patient on Coumadin and INR below therapeutic 
level at 1.2 at time of discharge. Patient stated to have stop 
taking his coumadin for a few days since he ran out of his 
coumadin. He was instructed to continue to take coumadin and to 
follow up in the ___ clinic on ___. 

#. Varicose veins:
Patient being followed by vascular Surgery. As per patient, no 
need for surgery since on most recent U/S showed that the 
greater saphenous is thrombosed and shrinking in size. He 
usually takes spirolactone as needed for leg edema, but has 
stopped due to side effect of gynotomastia. 

#. Neck pain:
Secondary to muscle strain and chronic degenerative
changes. Patient seen ___ and has been having neck 
manipulation. Patient was adviced to the risks of having neck 
manipulation.

# FEN: reg diet.  

#Financial issues: Patient was extremely anxious about financial 
situation and the co-pay for this hospitalization. He staes that 
he has his own ___ ___ which has not been 
doing well for the last year and he is running out of money. The 
social worker met with him and discussed supplemental insurance 
options. T
 
Medications on Admission:
Medications -
COLCHICINE - 0.6 mg Tablet - 1 Tablet(s) by mouth every 2 hours 
PRN joint pain

DILTIAZEM HCL [CARDIZEM CD] - 120 mg Capsule, Sust. Release 24 
hr
- 1 Capsule(s) by mouth once a day

LEVOTHYROXINE - 75 mcg Tablet - 1 (One) Tablet(s) by mouth once 
a day

SOTALOL - 120 mg Tablet - 1 Tablet(s) by mouth q 12 hours

SPIRONOLACTONE- 25 mg Tablet once per day. He only takes PRN for 
occassional ankle edema. 

WARFARIN- 7.5 mg ___, Thus, ___ and 5mg Po once daily. 
Patient followed by ___ clinic last INR 2.8 on ___ 

CHOLECALCIFEROL (VITAMIN D3) -  (OTC) - 1,000 unit Tablet - 1
Tablet(s) by mouth daily

MULTIVITAMIN -     Tablet - one Tablet(s) by mouth daily

 
Discharge Medications:
1. Levothyroxine 75 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Sotalol 120 mg Tablet Sig: One (1) Tablet PO twice a day.  
3. Warfarin 7.5 mg Tablet Sig: One (1) Tablet PO On ___, 
___.  
4. Warfarin 5 mg Tablet Sig: One (1) Tablet PO Every ___ and 
___.  
5. Cholecalciferol (Vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day.  
6. Diltiazem HCl 30 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).
Disp:*90 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Presyncope 

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admited to ___ for feeling lightheaded and having a 
near passing out episode. You were admitted to the cardiology 
unit and had your heart monitored. You were not in atrial 
fibrilation, however you had some premature beats which could be 
causing your symptoms. 

The following medications were changed:
- Decrease diltiazen to 30mg three times per day
- Stop taking spirolactone 

Please call your doctor or come to the emergency room if you 
develop any chest pain, shortness of breath, palpitations, 
worsenning symptoms or for any other concerns. 

 
Followup Instructions:
___